resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.007771
R2 0 n2 0.985455
R3 0 n4 0.123198
R4 n1 n3 1.001008
R5 n1 n5 1.010014
R6 n2 n3 1.010255
R7 n2 n6 0.99439
R8 n3 n7 0.996519
R9 n4 n5 0.995454
R10 n4 n6 1.006278
R11 n5 n7 1.012046
R12 n6 n7 0.982882
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
